US05885816
To a solution of commercially available anthranilic acid (1.3737 g, 10.0 mmol) in 0.5N sodium hydroxide (20.0 mL), dioxane (10.0 mL) and acetonitrile (2.0 mL) was added di-t-butyldicarbonate (3.124 g, 14.3 mmol) at 0° C. Following 8-hour stirring at room temperature, volatile solvent was evaporated under reduced pressure. To the reaction mixture were added ice and 10% citric acid solution and the mixture was extracted with ethyl acetate. The combined organic phase was washed with saturated brine and dried. The solvent was evaporated, and the residue was crystallized from ethyl acetate-hexane to obtain t-butoxycarbonyl anthranilic acid (1.71 g, 72%).

reactant | anthranilic acid | 10.0 mmol, 1.3737 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | di-t-butyldicarbonate | 14.3 mmol, 3.124 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | sodium hydroxide | 0.5N, 20.0 mL | [OH-].[Na+]
solvent | dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
product | t-butoxycarbonyl anthranilic acid | 1.71 g, 72% | C(C)(C)(C)OC(=O)NC=1C(C(=O)O)=CC=CC1 | C12H15NO4
